US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)thiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 46% yield: mp 109-111° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.52-8.42 (m, 2H), 7.63 (d, J=7.8 Hz, 1H), 7.24-7.17 (m, 1H), 6.54 (t, J=6.0 Hz, 1H), 4.52 (d, J=6.0 Hz, 2H), 4.05-4.00 (m, 2H), 3.55-3.49 (m, 2H), 3.20 (t, J=7.5 Hz, 2H), 2.60 (s, 3H), 1.59-1.49 (m, 2H), 0.85 (t, J=7.5 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 162.8, 157.5, 155.4, 153.5, 149.1, 148.6, 135.6, 134.1, 123.6, 116.7, 45.4, 42.1, 42.0, 41.2, 20.5, 17.2, 11.1; MS (ES+) m/z 360.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCC)=O | C11H15N3O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 46% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CCC)=O | C17H21N5O2S
